US08357711B2
(3R*,4S*)-4-(4-Fluorophenyl)tetrahydrofuran-3-yl methanesulfonate
Mesyl chloride (21.4 mL, 0.28 mol, 1.2 eq) was added dropwise to a mixture of compound (3S*,4S*)-4-(4-fluorophenyl)tetrahydrofuran-3-ol (Preparation 59, 42 g, 0.23 mol, 1 eq) and Et3N (79.6 mL, 0.55 mol, 2.0 eq) in DCM (250 mL) under stirring on an ice bath for 30 min. The mixture was stirred at room temperature for 1 h and diluted with water (500 mL). The layers were separated. The organic layer was subjected to chromatography on silica (1 L, carbon tetrachloride→25, 50, 75, 100% chloroform→MeOH) to give title compound (40 g, 0.15 mol, 67%).

reactant | Mesyl chloride | 0.28 mol, 21.4 mL, 1.2 eq | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | (3S*,4S*)-4-(4-fluorophenyl)tetrahydrofuran-3-ol | 0.23 mol, 42 g, 1 eq | FC1=CC=C(C=C1)[C@@H]1[C@@H](COC1)O | C10H11FO2
reactant | Et3N | 0.55 mol, 79.6 mL, 2.0 eq | CCN(CC)CC | C6H15N
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | (3R*,4S*)-4-(4-Fluorophenyl)tetrahydrofuran-3-yl methanesulfonate | 0.15 mol, 40 g, 67% | CS(=O)(=O)O[C@H]1COC[C@@H]1C1=CC=C(C=C1)F | C11H13FO4S
